US04028340
Crude ethylphenol consisting of 1.1% phenol and m- and p-cresols, 0.1% o-ethylphenol, 0.5% m-ethylphenol and 98.3% p-ethylphenol was dissolved in benzene, and dehydrogenated at a temperature of 600° C. and LHSV of 1.0 hr-1 under atmospheric pressure using the same catalyst as in Example 1, with the ethylphenol/benzene/water molar ratio being about 1/1/12. The resulting product was allowed to stand at room temperature followed by separating the water. The crude vinylphenol so separated consisted of 40.2% benzene, 6.9% phenol and m- and p-cresols, traces of o-ethylphenol, 0.2% m-ethylphenol, 24.4% p-ethylphenol, traces of o-vinylphenol, 0.2% m-vinylphenol, 22.2% p-vinylphenol, 1.6% oligomers of vinylphenols and 4.3% water with the vinylphenols/ethylphenols molar ratio being 0.93. The crude vinylphenol was directly placed in a three necked glass reactor equipped with a stirrer, and heat polymerized at 140° C. for 5 hours while removing the benzene and water to obtain a crude p-vinylphenol polymer consisting of 3.6% oligomers of vinylphenols, 12.2 % phenol and m- and p-cresols, 44.3% unreacted ethylphenols, 39.5% p-vinylphenol polymer, a trace of o-vinylphenol and 0.4% m-vinylphenol. The crude polymer was pre-heated to about 50° C., and fed into a film evaporator at a feed rate of 7 l/hr under a pressure of 8 mmHg while maintaining the heat transfer medium at a temperature of 270° C. Otherwise, the conditions were the same as in Example 1. A purified p-vinyl-phenol polymer having a weight average molecular weight of 6,524 and containing 0.3% ethylphenols and o- and m-vinylphenol and 1.5% oligomers of vinylphenols was obtained almost quantitatively.

reactant | ethylphenol | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | m-ethylphenol | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | p-ethylphenol | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | ethylphenol benzene water | C(C)C1=C(C=CC=C1)O.C1=CC=CC=C1.O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-vinylphenol | C(=C)C1=CC=C(C=C1)O | C8H8O
